US09403798B2
5-(4-Fluorophenyl)bicyclo[3.1.0]hexan-2-amine
To a dichloromethane solution (0.28 mL) of 3-(4-fluorophenyl)cyclopent-2-enamine (55.8 mg, 0.315 mmol) synthesized in Reference Synthesis Example 223, diethylzinc (15% solution in toluene) (162 μL, 1.78 mmol) was added and then diiodomethane (127 μL, 1.58 mmol) was added at 0° C. with stirring and the resultant mixture was stirred at room temperature for 1 day. After completion of the reaction, saturated ammonium chloride aqueous solution was added to the reaction solution and extraction from the resultant mixture with chloroform was performed. The organic layer was concentrated under reduced pressure to obtain a crude product of the title compound.

reactant | 3-(4-fluorophenyl)cyclopent-2-enamine | 0.315 mmol, 55.8 mg | FC1=CC=C(C=C1)C1=CC(CC1)N | C11H12FN
reactant | diethylzinc | 1.78 mmol, 162 μL | C(C)[Zn]CC
reactant | diiodomethane | 1.58 mmol, 127 μL | ICI | CH2I2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 0.28 mL | ClCCl | CH2Cl2
product | 5-(4-Fluorophenyl)bicyclo[3.1.0]hexan-2-amine | FC1=CC=C(C=C1)C12CCC(C2C1)N | C12H14FN
